US08476442B2
Procedure for the preparation of 6-amino-5-tert-butyl-3,3-dimethylbenzofuran-2(3H)-one (20)
Palladium on carbon (wet; 5 wt %) was placed into a round bottomed flask under nitrogen flow. 5-tert-butyl-3,3-dimethyl-6-nitro-benzofuran-2-one (4.7 g, 17.85 mmol) was then added to the vessel. Methanol (120 mL) was then carefully charged to the vessel under nitrogen atmosphere. The vessel was then purged with N2, evacuated, then charged with hydrogen gas. The vessel was evacuated and re-charged with hydrogen gas, and then a continuous hydrogen gas stream was introduced. After completion, the reaction was filtered through Celite® and the cake was washed with MeOH (300 ml). The solvent was removed in vacuo and the product dried under high vacuum to give a white crystalline solid. 1H-NMR (400 MHZ, DMSO-d6) δ 7.05 (s, 1H); 6.48 (s, 1H); 5.02 (s, 2H, NH2); 1.34 (s, 6H); 1.30 (s, 9H)

reactant | 5-tert-butyl-3,3-dimethyl-6-nitro-benzofuran-2-one | 17.85 mmol, 4.7 g | C(C)(C)(C)C=1C(=CC2=C(C(C(O2)=O)(C)C)C1)[N+](=O)[O-] | C14H17NO4
catalyst | Palladium on carbon | [Pd] | Pd
solvent | Methanol | 120 mL | CO | CH4O
product | 6-amino-5-tert-butyl-3,3-dimethylbenzofuran-2(3H)-one | NC1=CC2=C(C(C(O2)=O)(C)C)C=C1C(C)(C)C | C14H19NO2
